US06087357
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(2-naphthylmethyl)-4-(3-methylsulfonyloxypropyl)piperazine (250 mg), thiomorpholine (43 mg) and triethylamine (46 mg) in dry methanol (5 ml) was refluxed for 2 hours. The reaction mixture was concentrated under reduced pressure and the resulting residue was purified by column chromatography on silica gel using ethyl acetate as an eluent. The product obtained was dissolved in ethyl acetate and treated with 4N hydrogen chloride in ethyl acetate solution to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(2-naphthylmethyl)-4-(3-thiomorpholinopropyl)piperazine dihydrochloride (195 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(2-naphthylmethyl)-4-(3-methylsulfonyloxypropyl)piperazine | 250 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCOS(=O)(=O)C)CC2=CC3=CC=CC=C3C=C2)C=C(C1)C(F)(F)F)(F)F | C28H28F6N2O4S
reactant | thiomorpholine | 43 mg | N1CCSCC1 | C4H9NS
reactant | triethylamine | 46 mg | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(2-naphthylmethyl)-4-(3-thiomorpholinopropyl)piperazine dihydrochloride | 195 mg | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCN2CCSCC2)CC2=CC3=CC=CC=C3C=C2)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C31H33F6N3OS.2ClH/c32-30(33,34)26-18-25(19-27(20-26)31(35,36)37)29(41)40-11-10-39(9-3-8-38-12-14-42-15-13-38)21-28(40)17-22-6-7-23-4-1-2-5-24(23)16-22;;/h1-2,4-7,16,18-20,28H,3,8-15,17,21H2;2*1H/t28-;;/m1../s1
